US07709645B2
550 mg (1.79 mmol) of 8-fluoro-6-iodo-1H-benzo[d][1,3]oxazine-2,4-dione was combined with 4 mL tetrahydrofuran in a 15 mL-sized sealed tube. To the solution was added 1.79 mL (3.58 mmol) of a 2.0 M dimethylamine solution in tetrahydrofuran. The sealed tube was capped and heated in an oil bath at 60° C. for 48 hours. The solution was concentrated down and then purified by flash chromatography on silica gel. A gradient of ethyl acetate and hexanes was used to afford 368 mg (1.19 mmol, 67% yield) of 2-amino-3-fluoro-5-iodo-N,N-dimethyl-benzamide as a golden oil. 1H NMR (500 MHz, CDCl3) δ 7.29 (dd, 1H), 7.19 (s, 1H), 4.50 (s, br., 2H), 3.03 (s, br., 6H).

reactant | 8-fluoro-6-iodo-1H-benzo[d][1,3]oxazine-2,4-dione | 1.79 mmol, 550 mg | FC1=CC(=CC2=C1NC(OC2=O)=O)I | C8H3FINO3
reactant | dimethylamine | 2.0 M | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-amino-3-fluoro-5-iodo-N,N-dimethyl-benzamide | 1.19 mmol, 368 mg, 67% yield | NC1=C(C(=O)N(C)C)C=C(C=C1F)I | C9H10FIN2O
